* ══════════════════════════════════════════════════════════════════════════════
* Overcurrent Protection — 48 V Bus
* Arm-core project / sim/spice/overcurrent_protection.cir
*
* Circuit topology:
*
*   48V_IN ──── Rsense ──── drain(M1) ──── 48V_OUT (to motor drivers)
*                │                │
*              V_sense        source(M1) ──── GND
*                │
*           ┌───▼───────────────────────────────┐
*           │  LM393 open-collector comparator   │
*           │  IN+ = V_sense hi-side             │
*           │  IN- = V_ref  (trip threshold)      │
*           │  OUT → gate(M1) via R_gate          │
*           │        (active-low: OUT=low → FET off) │
*           └───────────────────────────────────┘
*
* Design parameters:
*   Bus voltage:       48 V
*   Max continuous:    10 A  (motor draw)
*   Trip current:      15 A  (50 % headroom over continuous)
*   Rsense:            5 mΩ  (low loss: P = I² × R = 10² × 0.005 = 0.5 W)
*   V_trip = I_trip × Rsense = 15 × 0.005 = 75 mV
*   V_ref:             75 mV
*   FET:               IRF2907  (75 V, 209 A, Rds_on 4.5 mΩ)
*   Response time:     < 1 µs  (comparator propagation ~150 ns + gate RC ~300 ns)
*
* Run this .tran simulation to see:
*   1. Normal operation (10 A load): FET stays on, V_sense < V_ref
*   2. Fault at t=50µs (25 A pulse): comparator trips, FET turns off in ~500 ns
* ══════════════════════════════════════════════════════════════════════════════

.title Overcurrent Protection 48V Bus

* ── Supply ────────────────────────────────────────────────────────────────────
Vbus   48V_IN  GND  48

* ── Sense resistor (5 mΩ, 2 W rated) ─────────────────────────────────────────
Rsense  48V_IN  SENSE_HI  5m

* ── Main bus MOSFET (simplified SPICE model for IRF2907) ──────────────────────
* Real design: use manufacturer SPICE model from Vishay/Infineon
M1  SENSE_HI  GATE  GND  GND  NMOS_IRF2907
.model NMOS_IRF2907 NMOS(
+  Level=1
+  Vto=4         ; gate threshold ~4 V
+  Kp=200        ; transconductance parameter (simplified)
+  Rd=0.0045     ; Rds_on = 4.5 mΩ
+  Rs=0          ;
+  Cgd=1.5n      ; gate-drain capacitance (affects turn-off speed)
+  Cgs=3.5n      ; gate-source capacitance
+ )

* ── Gate drive: pull-up to 12 V via Rpullup, comparator pulls down ────────────
* Gate is held HIGH (FET on) by Rpullup; comparator output sinks gate to GND.
Vgate_supply  GATE_VCC  GND  12
Rpullup       GATE_VCC  GATE  10k

* ── LM393 comparator model (behavioural) ──────────────────────────────────────
* The comparator output is open-collector.  We model it as a voltage-controlled
* switch: closes (pulls gate LOW) when V(SENSE_HI) - V(GND) > V_ref.
* In a real netlist, substitute the LM393 subcircuit from Texas Instruments.
Vref    VREF    GND   75m          ; 75 mV trip threshold
Ecomp   COMP_OUT  GND  VALUE={IF(V(SENSE_HI)-V(GND) > V(VREF), 0, 12)}
Rcomp   COMP_OUT  GATE  100        ; comparator output → gate

* ── Gate resistor (limit di/dt and ringing during turn-off) ───────────────────
Rgate   GATE  GATE_NODE  10        ; 10 Ω slows turn-off to ~300 ns

* ── Bus output capacitor (holds voltage briefly during trip) ──────────────────
Cbus    48V_OUT  GND  100u  IC=48  ; 100 µF electrolytic, pre-charged to 48 V

* ── Load: piecewise linear current source to simulate fault ───────────────────
* t=0–50µs:  10 A (normal)
* t=50µs+:   25 A (fault, overcurrent condition)
Iload   48V_OUT  GND  PWL(
+  0     10
+  50u   10
+  50.1u 25
+  500u  25
+ )

* ── Probing ────────────────────────────────────────────────────────────────────
* Plot these nodes in LTspice / ngspice:
*   V(SENSE_HI)   → voltage across Rsense (= I_bus × 5 mΩ)
*   V(GATE)       → gate voltage (12 V = on, 0 V = off)
*   V(48V_OUT)    → output bus voltage (drops when FET trips off)
*   I(Iload)      → load current

* ── Transient analysis ─────────────────────────────────────────────────────────
.tran 10n 500u 0 10n     ; step=10 ns, stop=500 µs, start=0, max_step=10 ns
.probe V(SENSE_HI) V(GATE) V(48V_OUT) I(Iload)
.end
